US07262202B2
Pentane-2,4-dione (10.3 mL, 0.1 mol) was diluted with AcOH and cooled to 0° C. NaNO2 (6.9 g, 0.1 mol) was dissolved in H2O (10 mL) and added dropwise, keeping the internal temperature ≦10° C. The mixture was stirred for 1 h with cooling then 3 h at room temperature. Ethyl acetoacetate (14 mL, 0.11 mol) was dissolved in 1:1 AcOH/H2O (100 mL) and Zn powder (7.19 g, 0.11 mol) was added. To this the oxime solution was added and the mixture was heated at 100° C. for 30 min then poured into H2O (0.8 L). The aqueous mixture was extracted with EtOAc (3×500 mL). The combined organic extracts were washed (brine), dried (MgSO4), filtered, and evaporated in vacuo. The residue was purified by SiO2 chromatography (heptane/EtOAc gradient elution) to afford 5-acetyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid ethyl ester (4.32 g). An aliquot (3.5 g, 16.7 mmol) was added to KOH (4.22 g, 75.3 mmol) dissolved in H2O (5 mL) and the mixture was heated at 130° C. for 18 h. It was then cooled, diluted with H2O (50 mL) and acidified with 2 M aq HCl. This mixture was extracted with EtOAc (3×50 mL). The combined organic extracts were washed (brine), dried (MgSO4), filtered, and evaporated in vacuo. The residue was purified by SiO2 chromatography (EtOAc) to afford 1-(3,5-dimethyl-1H-pyrrol-2-yl)-ethanone (1.05 g). An aliquot (536 mg, 3.9 mmol) was suspended in N,N-dimethylformamide dimethyl acetal (1.2 mL, 8.8 mmol) in a N2-flushed flask and heated at 90° C. for 48 h. The mixture was cooled and triturated in cold EtOAc. The resulting precipitate was filtered and washed with EtOAc to afford the title compound (444 mg) as a buff. 1H-NMR (DMSO-d6) δ: 1.41 (s, 3H, CH3), 2.23 (s, 3H, CH3), 2.23 (br. s, 6H, CH3), 4.77 (d, 1H, J=12.4 Hz, CH), 4.95 (s, 1H, pyrrolyl-H), 6.85 (d, 1H, J=12.4 Hz, CH).

reactant | Pentane-2,4-dione | 0.1 mol, 10.3 mL | CC(CC(C)=O)=O | C5H8O2
reactant | NaNO2 | 0.1 mol, 6.9 g | N(=O)[O-].[Na+]
reactant | Ethyl acetoacetate | 0.11 mol, 14 mL | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | AcOH | CC(=O)O | C2H4O2
solvent | H2O | 10 mL | O | H2O
solvent | AcOH H2O | 100 mL | CC(=O)O.O
catalyst | Zn | 0.11 mol, 7.19 g | [Zn] | Zn
solvent | H2O | 0.8 L | O | H2O
product | 5-acetyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid ethyl ester | 4.32 g | C(C)OC(=O)C1=C(NC(=C1C)C(C)=O)C | C11H15NO3
